* C:\Users\Happy\Desktop\Circuit SImulations\Draft5.asc
V1 vin 0 SINE(0 7 1k)
R1 VOUT vin 1k
D1 VOUT N002 1N4148
D2 N001 VOUT 1N4148
V2 N002 0 4.7
V3 0 N001 4.7
.model D D
.lib C:\Users\Happy\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m
.backanno
.end
