* C:\Users\Happy\Desktop\Circuit SImulations\EE 253\Draft2.asc
XU1 vin N001 N002 N004 N003 AD795
V1 vin 0 SINE(0 0.5 1k)
V2 N002 0 15
V3 0 N004 15
D1 N003 N001 1N4148
R1 N001 0 10k
.model D D
.lib C:\Users\Happy\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m
.lib ADI.lib
.backanno
.end
